US04769465
A mixture of 3-methoxycarbonyl-2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid (3.32 g, 0.01 mole), 1-bromo-2-chloroethane (1.43 g, 0.01 mole) and triethylamine (1.01 g, 0.01 mole) is stirred at 120° C. for 8 hours. The reaction mixture is dissolved in a mixture of ethyl acetate/methanol/ammonia (80:30:3) and subjected to chromatography on a silica gel column (2×35 cm). Thus, there are obtained chloroethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate (0.75 g, 19.8%) and the dimeric ethylene glycol-di-/2,6-dimethyl-4-(m-nitrophenyl)-5-methoxycarbonyl-1,4-dihydropyridyl-3/dicarboxylate (0.1 g, 1.5%) as oily substance.

reactant | 3-methoxycarbonyl-2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid | 0.01 mole, 3.32 g | COC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C)C | C16H16N2O6
reactant | 1-bromo-2-chloroethane | 0.01 mole, 1.43 g | BrCCCl | C2H4BrCl
reactant | triethylamine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate methanol ammonia | C(C)(=O)OCC.CO.N
product | chloroethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 0.75 g, 19.8% | CC=1NC(=C(C(C1C(=O)OCCCl)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C18H19ClN2O6
